US03932629
b. 1-phenyl-5-chloro-3-hydroxy-1,2,4-triazole
32.2 g of 1-phenyl-3-hydroxy-1,2,4-triazole and 40.5 g of triethylamine are dissolved in 300 ml of absolute alcohol. While cooling, 21.3 g of chlorine are passed in (20° to 30°C). Triethylamino hydrochloride is filtered off and the filtrate is concentrated in a rotary evaporator. The residue is treated with 300 ml of water and extracted 4 times with 200 ml of ether each time. The combined ethereal extracts are dried over sodium sulphate. The drying agent is filtered off and the filtrate concentrated. The solid residue is recrystallised from 70 ml of acetonitrile. Yield: 11.4 g (29.2 % of theory); m.p. 147°-149°C.

reactant | 1-phenyl-3-hydroxy-1,2,4-triazole | 32.2 g | C1(=CC=CC=C1)N1N=C(N=C1)O | C8H7N3O
reactant | chlorine | 21.3 g | ClCl | Cl2
solvent | triethylamine | 40.5 g | C(C)N(CC)CC | C6H15N
product | 1-phenyl-5-chloro-3-hydroxy-1,2,4-triazole | C1(=CC=CC=C1)N1N=C(N=C1Cl)O | C8H6ClN3O
